*==============================================================================
* TLA2518 — 8-Ch 12-Bit SAR ADC Analog Front-End Behavioral Model
* Texas Instruments TLA2518IRTER (WQFN-16)
* AVDD = 3.3V, ngspice-compatible version
*==============================================================================
* Key parameters from datasheet:
*   CSH    = 12 pF  (sampling capacitor)
*   RIN    = 500 Ω  (input mux switch resistance, estimated)
*   CIN    = 5 pF   (input pin capacitance)
*   FSR    = 0 ~ AVDD
*   VIN max absolute = AVDD + 0.3V
*==============================================================================

.subckt TLA2518_AIN AIN AVDD GND
.param CSH   = 12pF
.param RIN   = 500
.param CIN   = 5pF
.param ILEAK = 1u

Rsw   AIN CSH_NODE {RIN}
Csh   CSH_NODE GND {CSH}
Cpin  AIN GND {CIN}
Ileak AIN GND DC {ILEAK}

* ESD clamp diodes (model as standard silicon diodes)
Desd_hi AIN AVDD DESD_CLAMP
Desd_lo GND AIN DESD_CLAMP
.model DESD_CLAMP D (Is=1e-12 Rs=10 Cjo=2pF BV=5.5)

.ends TLA2518_AIN

*==============================================================================
* TLA2518_AIN7_BAT — AIN7 channel with overvoltage behavior
*==============================================================================
.subckt TLA2518_AIN7_BAT AIN AVDD GND
.param CSH = 12pF
.param RIN = 500
.param CIN = 5pF

Rsw  AIN CSH_NODE {RIN}
Csh  CSH_NODE GND {CSH}
Cpin AIN GND {CIN}

* ESD clamp: conducts when VAIN > AVDD + 0.7V
Dclamp AIN AVDD DCLAMP_ESD
Dgnd   GND AIN DCLAMP_ESD
.model DCLAMP_ESD D (Is=1e-12 Rs=10 Cjo=2pF BV=5.5)

.ends TLA2518_AIN7_BAT

*==============================================================================
* TLA2518_ADC_CH — Single channel with buffered measurement node
* VOUT_MEAS = voltage at the sampling capacitor
*==============================================================================
.subckt TLA2518_ADC_CH AIN AVDD GND VOUT_MEAS
.param CSH = 12pF
.param RIN = 500
.param CIN = 5pF

Cpin AIN GND {CIN}
Rsw  AIN CSH_NODE {RIN}
Csh  CSH_NODE GND {CSH}

* Unity-gain buffer for non-invasive measurement
Ebuf VOUT_MEAS GND CSH_NODE GND 1.0

.ends TLA2518_ADC_CH
